US09085555B2
(2S,4R)-1-{2-[3-Acetyl-6-(1H-tetrazol-5-ylmethoxy)-indol-1-yl]-acetyl}-4-fluoro-pyrrolidine-2-carboxylic acid 3-chloro-2-fluoro-benzylamide
The title compound was prepared in a similar manner as described above for Example 585 from (2S,4R)-1-[2-(3-acetyl-6-hydroxy-indol-1-yl)-acetyl]-4-fluoro-pyrrolidine-2-carboxylic acid 3-chloro-2-fluoro-benzylamide Example 583 (60.0 mg, 0.122 mmol), cesium carbonate (120 mg, 0.367 mmol) and 5-(chloromethyl)-1H-tetrazole (44.0 mg, 0.366 mmol) in DMSO (2.5 mL). Solid. MS (LC/MS): 572 [M+H]+; tR (HPLC conditions k): 3.23 min.

reactant | (2S,4R)-1-[2-(3-acetyl-6-hydroxy-indol-1-yl)-acetyl]-4-fluoro-pyrrolidine-2-carboxylic acid 3-chloro-2-fluoro-benzylamide | ClC=1C(=C(CNC(=O)[C@H]2N(C[C@@H](C2)F)C(CN2C=C(C3=CC=C(C=C23)O)C(C)=O)=O)C=CC1)F | C24H22ClF2N3O4
reactant | cesium carbonate | 0.367 mmol, 120 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 5-(chloromethyl)-1H-tetrazole | 0.366 mmol, 44.0 mg | ClCC1=NN=NN1 | C2H3ClN4
solvent | DMSO | 2.5 mL | CS(=O)C | C2H6OS
product | (2S,4R)-1-{2-[3-Acetyl-6-(1H-tetrazol-5-ylmethoxy)-indol-1-yl]-acetyl}-4-fluoro-pyrrolidine-2-carboxylic acid 3-chloro-2-fluoro-benzylamide | ClC=1C(=C(CNC(=O)[C@H]2N(C[C@@H](C2)F)C(CN2C=C(C3=CC=C(C=C23)OCC2=NN=NN2)C(C)=O)=O)C=CC1)F | C26H24ClF2N7O4
